US07692005B2
A 50 mL round bottom flask was charged with [3-(4-Methyl-piperazin-1-yl)-propyl]-(4-nitro-phenyl)-amine (0.742 g, 3.34 mmol) and dissolved into EtOH (20 mL). Hydrazine Hydrate (0.642 mL, 20.04 mmol) was then added. Excess RaNi was then added in dropwise until the solution stopped bubbling. The suspension was then allowed to stir for an additional 15 minutes at 65° C. The suspension was cooled to rt and then filtered over celite. The celite was washed with MeOH (˜20 mL) and the combined organic solutions were then concentrated in vacuo. The crude oil was then purified over silica (3% Chloroform/Hexanes to 10% Chloroform/Hexanes) affording pure 1-(4-amino-phenyl)-piperidin-4-ol as a light brown oil in 51% yield (0.327 g, 1.71 mmol).

reactant | [3-(4-Methyl-piperazin-1-yl)-propyl]-(4-nitro-phenyl)-amine | 3.34 mmol, 0.742 g | CN1CCN(CC1)CCCNC1=CC=C(C=C1)[N+](=O)[O-] | C14H22N4O2
reactant | Hydrazine Hydrate | 20.04 mmol, 0.642 mL | O.NN
reactant | EtOH | 20 mL | CCO | C2H6O
catalyst | RaNi | [Ni] | Ni
product | 1-(4-amino-phenyl)-piperidin-4-ol | 51% yield | NC1=CC=C(C=C1)N1CCC(CC1)O | C11H16N2O
